US07709469B2
5-benzyl-1-(2,3-dichlorophenyl)-1H-1,2,4-triazole
N-Formylphenylacetamide (Finkbeiner J. Org. Chem. 1965, 30; 2861) (200 mg, 1.22 mmol) and 2,3-dichlorophenylhydrazine hydrochloride (314 mg, 1.47 mmol) were combined in glacial acetic acid (8 mL) and refluxed under a nitrogen atmosphere for 1 hour and then concentrated under reduced pressure at 60° C. The residue was purified by flash chromatography eluting with hexanes/ethyl acetate (6/1) to provide the title compound. MS (ESI+) m/z 305 (M+1H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm 4.02 (s, 2H) 6.97-7.02 (m, 2H) 7.16-7.25 (m, 3H) 7.52-7.58 (m, 2H) 7.88 (dd, J=6.8, 3.1 Hz, 1H) 8.16 9s, 1 H).

reactant | N-Formylphenylacetamide | 1.22 mmol, 200 mg | C(=O)NC(CC1=CC=CC=C1)=O | C9H9NO2
reactant | 2,3-dichlorophenylhydrazine hydrochloride | 1.47 mmol, 314 mg | Cl.ClC1=C(C=CC=C1Cl)NN
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 5-benzyl-1-(2,3-dichlorophenyl)-1H-1,2,4-triazole | C(C1=CC=CC=C1)C1=NC=NN1C1=C(C(=CC=C1)Cl)Cl | C15H11Cl2N3
